US07247734B2
Synthesis of 6-Chloro-7-hydroxy-3-(2-methoxy-phenyl)-chromen-4-one
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (1.74 g, 12.0 mmol), 2-methoxyphenylacetic acid (2.0 g, 12.0 mmol), BF3Et2O (10 ml), PCl5 (3.76 g, 18.1 mmol), DMF (20 ml and 10 ml). The pale brown solid precipitate was taken directly onto the next stage without further purification.

reactant | 4-Chlororesorcinol | 12.0 mmol, 1.74 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 2-methoxyphenylacetic acid | 12.0 mmol, 2.0 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | PCl5 | 18.1 mmol, 3.76 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-7-hydroxy-3-(2-methoxy-phenyl)-chromen-4-one | ClC=1C=C2C(C(=COC2=CC1O)C1=C(C=CC=C1)OC)=O | C16H11ClO4
